US05099044
5.25 g (22 mmol) of o-trifluoromethylbenzyl bromide in 10 ml of ether/hexane are added at -50° to a mixture of 45 ml of ether/hexane (2:1) and 14.7 ml (1.5N =22 mmol) of n-butyllithium. After stirring for 15 minutes, 2.1 g (16 mmol) of dimethylgallium chloride in 20 ml of hexane are added. Then the reaction mixture is allowed to come to room temperature, it is stirred for 24 hours, and the LiCl is filtered off and the solvent removed. After sublimation in vacuo, o-trifluoromethylbenzyldimethylgallium is obtained with a Mp. 35°-38°.

reactant | o-trifluoromethylbenzyl bromide | 22 mmol, 5.25 g | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | n-butyllithium | 22 mmol, 1.5N, 14.7 ml | C(CCC)[Li]
reactant | dimethylgallium chloride | 16 mmol, 2.1 g | [Cl-].C[Ga+]C
solvent | ether hexane | 10 ml | CCOCC.CCCCCC
solvent | hexane | 20 ml | CCCCCC | C6H14
solvent | ether hexane | 45 ml | CCOCC.CCCCCC
product | o-trifluoromethylbenzyldimethylgallium | FC(C1=C(C[Ga](C)C)C=CC=C1)(F)F | InChI=1S/C8H6F3.2CH3.Ga/c1-6-4-2-3-5-7(6)8(9,10)11;;;/h2-5H,1H2;2*1H3;
